US07737166B2
2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1H-benzimidazole-4-carbonitrile (#121)
An acetic acid (5 ml) solution of N-[4-amino-5-cyano-2-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methylbiphenyl-3-yl]-2,2-dimethylpropionamide (I-270) (300 mg, 0.72 mmol) was heated at 80° C. for 2.5 hours. After cooling, the reaction solution was poured into aqueous sodium hydroxide solution (6.7 M, 15 ml).

reactant | N-[4-amino-5-cyano-2-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methylbiphenyl-3-yl]-2,2-dimethylpropionamide | 0.72 mmol, 300 mg | NC1=C(C(=C(C(=C1C#N)C)C1=CC=CC=C1)N1C[C@H](CC1)N(C)C)NC(C(C)(C)C)=O | C25H33N5O
reactant | sodium hydroxide | 6.7 M, 15 ml | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-tert-Butyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1H-benzimidazole-4-carbonitrile | C(C)(C)(C)C1=NC2=C(N1)C(=C(C(=C2C#N)C)C2=CC=CC=C2)N2C[C@H](CC2)N(C)C | C25H31N5
